US09446034B2
6-Chloro-4-iodo-nicotinonitrile
To a mixture of THF (100 mL) and hexane (40 mL) under nitrogen atmosphere was added DIPA (22.21 mL, 158.78 mmole, 1.1 eq). The mixture was cooled to −80° C. and to this was added n-BuLi (63.57 mL, 158.78 mmole, 1.1 eq) dropwise. After completion of addition the resulting mixture was allowed to warm and stirred at −10° C. for 15 min. The reaction mixture was again cooled to −80° C. and a solution of 6-chloro-nicotinonitrile (20 g, 144.35 mmol, 1 eq) in THF (100 mL) was added dropwise. The resulting mixture was stirred at −80° C. for 1 h. After 1 h a solution of iodine (43.96 g, 173.22 mmole, 1.2 eq) in THF (100 mL) was added in one portion. After completion of the reaction, the reaction was quenched with water (100 mL) and extracted with diethyl ether (6×100 mL). Combined organic layers were washed with saturated solution of sodium thiosulfate (2×100 mL), dried over sodium sulfate, filtered and concentrated under vacuum to give crude product. Crude compound was purified by column chromatography over silica gel (100-200 mesh) using 2% ethyl acetate-hexane as the eluant to yield the title compound as a faintly yellow solid (15 g, 39%). 1H-NMR (400 MHz, DMSO-d6): δ 8.38 (s, 1H), 8.79 (s, 1H). LC-MS calculated for C6H2ClIN2 (M+H) 264.90, found 264.9.

reactant | hexane | 40 mL | CCCCCC | C6H14
reactant | n-BuLi | 158.78 mmole, 63.57 mL, 1.1 eq | [Li]CCCC
reactant | 6-chloro-nicotinonitrile | 144.35 mmol, 20 g, 1 eq | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | iodine | 173.22 mmole, 43.96 g, 1.2 eq | II | I2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-Chloro-4-iodo-nicotinonitrile | ClC1=NC=C(C#N)C(=C1)I | C6H2ClIN2
